US05965761
5 ml of trichlorosilane are added while stirring to a solution of 0.1 g of H2PtCl6 in 20 ml of dry tetrahydrofuran. A solution of 14.8 g of 2-methoxy-4-[(E)2-methoxycarbonylvinyl]phenyl 4-(3-butenyloxy)benzoate dissolved in 20 ml of dry tetrahydrofuran is cautiously added dropwise thereto. Thereafter, the mixture is stirred at room temperature for 5 hrs. and then at 50° C. for 16 hrs. The reaction mixture is concentrated in a water-jet vacuum and completely freed from residual solvent and trichlorosilane on an oil pump with a cooling trap under reduced pressure. This gives crude 2-methoxy-4-[(E)2-methoxycarbonylvinyl]phenyl 4-(4-trichlorosilanylbutyloxy)benzoate, which is dissolved in dry tetrahydrofuran for storage.

reactant | trichlorosilane | 5 ml | Cl[SiH](Cl)Cl | Cl3HSi
reactant | 2-methoxy-4-[(E)2-methoxycarbonylvinyl]phenyl 4-(3-butenyloxy)benzoate | 14.8 g | C(CC=C)OC1=CC=C(C(=O)OC2=C(C=C(C=C2)\C=C\C(=O)OC)OC)C=C1 | C22H22O6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-methoxy-4-[(E)2-methoxycarbonylvinyl]phenyl 4-(4-trichlorosilanylbutyloxy)benzoate | Cl[Si](CCCCOC1=CC=C(C(=O)OC2=C(C=C(C=C2)\C=C\C(=O)OC)OC)C=C1)(Cl)Cl | C22H23Cl3O6Si
